* C:\Users\lamtu\OneDrive\Documents\My_Projects\GrandPrIEEE\Circuit Simulation\Half_H_Bridge.asc
D1 VDD N001 B520C
R1 N003 N002 100 tol=1 pwr=0.1
XU1 VDD PWM VDD 0 N001 N002 Vout N005 IR2302 Cdelay=50n Rdelay=50 T1=-40 T2=25 T3=125 V1=10 V2=15 V3=20 toffT1=200n toffT2=200n toffT3=200n toffV1=200n toffV2=200n toffV3=200n tonT1=210n tonT2=210n tonT3=210n tonV1=210n tonV2=210n tonV3=210n
R2 N006 N005 100 tol=1 pwr=0.1
M3 VDD N003 Vout Vout BSB012NE2LX
M1 Vout N006 0 0 BSB012NE2LX
C1 VDD 0 0.1µ V=16 Irms=728m Rser=0.14361 Lser=0 mfg="KEMET" pn="C0603C104K4RAC" type="X7R"
C2 N001 Vout 6.8µ V=50 Irms=1.44145 Rser=0.09 Lser=0 mfg="KEMET" pn="T521V685M050ATE090" type="Tantalum"
V1 VDD 0 7.4 Rser=0
V2 PWM 0 PULSE(0 3.3 1u 0 0 50u 100u)
C4 VDD 0 0.1µ V=16 Irms=728m Rser=0.14361 Lser=0 mfg="KEMET" pn="C0603C104K4RAC" type="X7R"
R3 Vout 0 36
E1 Vout_1 0 N004 N007 1
R4 Vout N003 10k tol=1 pwr=0.1
R5 0 N006 10k tol=1 pwr=0.1
.model D D
.lib C:\Users\lamtu\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\lamtu\OneDrive\Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 0 10m 0
;op
.lib C:\Users\lamtu\OneDrive\Documents\My_Projects\GrandPrIEEE\Spice Parts\microsim-ir2302\IR2302.sub
.backanno
.end
